US07056937B2
Step C: Synthesis of 2-(4-Pyridin-2-yl-phenyl)-ethylamine
[2-(4-Pyridin-2-yl-phenyl)-ethyl]-carbamic acid tert-butyl ester was dissolved in a 1:1 mixture of trifluroacetic acid:dichloromethane. The reaction mixture was stirred at room temperature overnight after which the product was recovered upon solvent removal. The TFA salt was used in the next step without further purification.

reactant | [2-(4-Pyridin-2-yl-phenyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)C1=NC=CC=C1)=O | C18H22N2O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | trifluroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-Pyridin-2-yl-phenyl)-ethylamine | N1=C(C=CC=C1)C1=CC=C(C=C1)CCN | C13H14N2
